US07893062B2
rac-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[(3S,4R)-1-(1,1-dioxo-1-thiomorpholine-4-carbonyl)-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide
To a stirred solution of rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-[(3S,4R)-4-(4-fluoro-phenyl)-1-(thiomorpholine-4-carbonyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide (0.20 g, 0.33 mmol, described herein above) in MeOH (2 ml) at RT, was added potassium monopersulfate triple salt (0.30 g, 0.49 mmol). Stirring was continued an additional 3 hours, then a solution of NaHSO3 (40%) was added, the ph was adjusted to 9 with an aqueous solution of NaHCO3, and finally the product was extracted with Et2O. Purification by flash chromatography (SiO2, EtOAc/Hx 1:1) yielded 185 mg (88%) of the title compound as_white foam.

reactant | rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-[(3S,4R)-4-(4-fluoro-phenyl)-1-(thiomorpholine-4-carbonyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide | 0.33 mmol, 0.20 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)F)C(=O)N1CCSCC1)(C)C)(F)F | C28H30F7N3O2S
reactant | potassium monopersulfate triple salt | 0.49 mmol, 0.30 g | OS(=O)(=O)[O-].OS(=O)(=O)O[O-].OS(=O)(=O)O[O-].[O-]S(=O)(=O)[O-].[K+].[K+].[K+].[K+].[K+]
reactant | NaHSO3 | OS(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
product | rac-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[(3S,4R)-1-(1,1-dioxo-1-thiomorpholine-4-carbonyl)-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide | 185 mg, 88% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)F)C(=O)N1CCS(CC1)(=O)=O)(C)C)(F)F | C28H30F7N3O4S
